US05962458
A mixture of 7-nitro-3,4-dihydroquinazolin-4-one (J. Chem. Soc. 1950, 1104-1111) (5 g, 26 mmol) in thionyl chloride (50 ml) and DMF (1 ml) was heated at reflux for 1.5 hours. Excess thionyl chloride was removed by evaporation and the residue azeotroped with toluene. The residue was suspended in ether, collected by filtration and dried under vacuum to give 4-chloro-7-nitroquinazoline hydrochloride (6.4 g, 100%).

reactant | 7-nitro-3,4-dihydroquinazolin-4-one | 26 mmol, 5 g | [N+](=O)([O-])C1=CC=C2C(NC=NC2=C1)=O | C8H5N3O3
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-chloro-7-nitroquinazoline hydrochloride | 6.4 g, 100% | Cl.ClC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | InChI=1S/C8H4ClN3O2.ClH/c9-8-6-2-1-5(12(13)14)3-7(6)10-4-11-8;/h1-4H;1H
